US07045545B1
3-(5-trifluoromethylbenzofur-7-yl)-2-butanone
A mixture of 0.27 gm (1.03 mMol) 5-trifluoromethyl-7-bromobenzofuran, 0.50 gm (1.55 mMol) methoxy(tri-n-butyl)tin, 0.18 gm (1.55 mMol) 2-acetoxy-2-butene, and 0.08 gm (0.10 mmol) bis[tri-o-tolylphosphine]palladium(II) chloride in 2.5 mL toluene was heated at 100° C. for 1 hour. The reaction mixture was cooled to room temperature and filtered through a pad of celite. The filtrate was concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with 10% ethyl acetate in hexane. Fractions containing product were combined and concentrated under reduced pressure to provide 0.090 gm (34%) of the desired compound.

reactant | 5-trifluoromethyl-7-bromobenzofuran | 1.03 mMol, 0.27 gm | FC(C=1C=C(C2=C(C=CO2)C1)Br)(F)F | C9H4BrF3O
reactant | methoxy(tri-n-butyl)tin | 1.55 mMol, 0.50 gm | CO[Sn](CCCC)(CCCC)CCCC
reactant | 2-acetoxy-2-butene | 1.55 mMol, 0.18 gm | C(C)(=O)OC(C)=CC | C6H10O2
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-trifluoromethylbenzofur-7-yl)-2-butanone | 0.090 gm, 34% | FC(C=1C=C(C2=C(C=CO2)C1)C(C(C)=O)C)(F)F | C13H11F3O2
